US08044068B2
To a mixed solution of 2,4-dichloro-6-methoxyquinazoline (CAS.105763-77-7) (0.15 g), iron(III) acetyl acetonate (0.023 g), N-methyl-2-pyrrolidinone (0.4 mL), and THF (8 mL) was added a solution (0.22 mL) of 3 M methyl magnesium chloride in THF at room temperature, and the mixture was stirred for 12 h. The reaction mixture was added dropwise to a mixture of ice (30 g) and ammonium chloride (0.3 g), and then the aqueous layer was extracted with chloroform. The organic layer was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (silica gel, chloroform) and crystallized with diisopropyl ether to obtain 2-chloro-6-methoxy-4-methylquinazoline (0.08 g).

reactant | 2,4-dichloro-6-methoxyquinazoline | 0.15 g | ClC1=NC2=CC=C(C=C2C(=N1)Cl)OC | C9H6Cl2N2O
reactant | N-methyl-2-pyrrolidinone | 0.4 mL | CN1C(CCC1)=O | C5H9NO
reactant | methyl magnesium chloride | 3 M, 0.22 mL | C[Mg]Cl
reactant | ammonium chloride | 0.3 g | [Cl-].[NH4+]
solvent | THF | C1CCOC1 | C4H8O
catalyst | iron(III) acetyl acetonate | 0.023 g | C/C(=C/C(=O)C)/[O-].C/C(=C/C(=O)C)/[O-].C/C(=C/C(=O)C)/[O-].[Fe+3]
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | 2-chloro-6-methoxy-4-methylquinazoline | 0.08 g | ClC1=NC2=CC=C(C=C2C(=N1)C)OC | C10H9ClN2O
